US07138533B2
8-(3-[1-[2-(3-Chlorophenyl)ethyl]-4-piperidinyl]propanoyl)-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one hydrochloride
Using 8-[3-(4-piperidinyl)propanoyl]-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one (500 mg) and 1-(2-bromoethyl)-3-chlorobenzene (394 mg) according to the same method as that of Example 81, the title compound (369 mg) was obtained as colorless crystals having a melting point of 223 to 225° C.

reactant | 8-[3-(4-piperidinyl)propanoyl]-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one | 500 mg | N1CCC(CC1)CCC(=O)C=1C=C2CCC(N3C2=C(C1)CC3)=O | C19H24N2O2
reactant | 1-(2-bromoethyl)-3-chlorobenzene | 394 mg | BrCCC1=CC(=CC=C1)Cl | C8H8BrCl
product | 8-(3-[1-[2-(3-Chlorophenyl)ethyl]-4-piperidinyl]propanoyl)-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one hydrochloride | 369 mg | Cl.ClC=1C=C(C=CC1)CCN1CCC(CC1)CCC(=O)C=1C=C2CCC(N3C2=C(C1)CC3)=O | InChI=1S/C27H31ClN2O2.ClH/c28-24-3-1-2-20(16-24)10-14-29-12-8-19(9-13-29)4-6-25(31)23-17-21-5-7-26(32)30-15-11-22(18-23)27(21)30;/h1-3,16-19H,4-15H2;1H
